US06960578B2
{3-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-2′,4′-difluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester
Prepared from (3-amino-2′,4′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G43) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example H10) according to the general procedure K. Obtained as a light brown solid (207 mg).

reactant | (3-amino-2′,4′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)N)=O | C17H18F2N2O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | {3-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-2′,4′-difluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester | 207 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C26H22F2N4O4
